US08685977B2
4-methylphenyl 5-chloro-2,4-difluorobenzoate
5-chloro-2,4-difluorobenzoic acid (1.17 g, 0.00608 mol) was dissolved in thionyl dichloride (5.0 mL) and the reaction mixture was heated to 60° C. under nitrogen for 5 hours. The solvent was concentrated in vacuo and the residue was azeotroped twice with dichloromethane (10.0 mL) and once with toluene (10.0 mL). The crude was taken up in dichloromethane (15.0 mL) and cooled to 0° C. with an ice bath under nitrogen. Then N,N-diethylethanamine (1.05 mL, 0.00753 mol) and p-cresol (0.665 g, 0.00615 mol) dissolved in dichloromethane (10.0 mL) were added using a dropping funnel over 10 minutes. The resulting mixture was left to warm up to room temperature for 16 hours. The reaction was concentrated in vacuo and the crude was diluted in ethyl acetate (15.0 mL), washed twice with a saturated aqueous solution of sodium hydrogen carbonate (10.0 mL). The organic layer was then dried over sodium sulfate, filtered, and concentrated in vacuo. Resulting crude was taken up in heptane (10.0 mL), put in a sonication bath for 5 minutes and the resulting solid was isolated by filtration. Title compound was obtained as white solid (1.20 g, 0.00425 mol, 70%).

reactant | 5-chloro-2,4-difluorobenzoic acid | 0.00608 mol, 1.17 g | ClC=1C(=CC(=C(C(=O)O)C1)F)F | C7H3ClF2O2
reactant | N,N-diethylethanamine | 0.00753 mol, 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | p-cresol | 0.00615 mol, 0.665 g | C1=CC(=CC=C1O)C | C7H8O
solvent | thionyl dichloride | 5.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
solvent | heptane | 10.0 mL | CCCCCCC | C7H16
product | 4-methylphenyl 5-chloro-2,4-difluorobenzoate | ClC=1C(=CC(=C(C(=O)OC2=CC=C(C=C2)C)C1)F)F | C14H9ClF2O2
